US05149817
1-[3-{4-(3,4-Dimethoxyphenyl)-1,2,5,6-tetrahydropyridin-1-yl}propylcarbamoyl]-2-oxopyrrolidine (Ia-105)
To a solution of 3.76 g of 4-(3,4-dimethoxyphenyl)-1,2,5,6-tetrahydropyridine (V-7), which was prepared by the reaction of 4-hydroxy-4-(3,4-dimethoxyphenyl)piperidine and p-toluenesulfonic acid, and 2.94 g of 1-(3-chloropropylcarbamoyl)-2-oxopyrrolidine in 35 ml of DMF is added 3.98 g of K2CO3 and 3.22 g of NaI. The reaction mixture is stirred at 100°-105° C. for 6 days under nitrogen gas. After cooling to room temperature, the mixture is diluted with ethyl acetate, washed with brine and dried over MgSO4. After removal of the solvent, the residue is subjected to column chromatography with silica gel, eluting with CH2Cl2 /MeOH (20/1) to prepare 1.78 g (Yield: 33.4%) of the compound (Ia-105) as solid. The oxalate is recrystallized from iPrOH-MeOH to prepare needles. mp. 178.0°-182.0° C.

reactant | 4-(3,4-dimethoxyphenyl)-1,2,5,6-tetrahydropyridine | 3.76 g | COC=1C=C(C=CC1OC)C1=CCNCC1 | C13H17NO2
reactant | 4-hydroxy-4-(3,4-dimethoxyphenyl)piperidine | OC1(CCNCC1)C1=CC(=C(C=C1)OC)OC | C13H19NO3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 1-(3-chloropropylcarbamoyl)-2-oxopyrrolidine | 2.94 g | ClCCCNC(=O)N1C(CCC1)=O | C8H13ClN2O2
reactant | K2CO3 | 3.98 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 3.22 g | [Na+].[I-]
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[3-{4-(3,4-Dimethoxyphenyl)-1,2,5,6-tetrahydropyridin-1-yl}propylcarbamoyl]-2-oxopyrrolidine | 1.78 g, Yield: 33.4% | COC=1C=C(C=CC1OC)C1=CCN(CC1)CCCNC(=O)N1C(CCC1)=O | C21H29N3O4
